US07205301B2
2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-6-methyl-4,5-dihydro-2H-pyridazin-3-one
To a suspension of (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine (2 g) in n-Butanol (40 mL) was added of 0.744 g of levulinic acid. The mixture was heated at reflux. After 3 h, the mixture was cooled at 0° C. and the 4-({4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-hydrazono)-4-methyl-butyric acid (1.92 g, 73%) was recovered by filtration. Mp 218–220° C., 1H NMR DMSO-d6) 12.1 (1H, OHacid), 9.93 (1H, s, NH), 9.48 (1H, s, NH), 8.64 (1H, d, 5 Hz), 8.24 (1H, d, 5 Hz), 8.0 (1H, s), 7.76 (2H, m), 7.46 (1H, d, 5 Hz), 7.38 (1H, dd, 2 Hz, 5 Hz), 7.30 (1H, t, 8 Hz), 6.98 (1H, dd, 1 Hz, 8 Hz), 2.51 (4H, s), 1.92 (3H, s), 13C NMR (DMSO-d6 176.2, 164.6, 161.6, 161.2, 150.5, 150.1, 147.5, 144.0, 134.9, 132.1, 122.97, 120.13, 119.2, 113.7, 111.1, 105.9, 35.33 (CH2), 32.56(CH2), 18.09 (CH3), MS (ES−) 409 (M−1, 100), 819 (2M−1, 30). The 4-({4-[2-(3-Chloro-phenylamino)-pyrimnidin-4-yl]-pyridin-2-yl}-hydrazono)-4-methyl-butyric acid (1.5 g) was dissolved in acetic acid (40 mL). The solution was stirred at 110° C. for 3 h then the solution was poured in a mixture of water and ice (250 mL) and neutralised with a solution saturated of sodium hydrogenocarbonate until pH 7. The mixture was extracted with ethyl acetate (3×100 mL). The organic phase were combined, dried over MgSO4, and concentrated. Flash silica chromatography, eluting with ethyl acetate-tetrahydrofuran (3-1), afforded the title compound as a solid (0.7263 g, 51%). Mp 189–192° C., 1H NMR (DMSO-d6) 10.07(1H, NH), 8.73 (1H, d, 5 Hz), 8.69 (1H, d, 5 Hz), 8.16 (1H, s), 8.06 (2H, m), 7.73 (1H, dd, 3 Hz, 10 Hz), 7.60(1H, d, 5 Hz), 7.31 (1H, t, 8 Hz), 7.03(1H, dd, 3 Hz, 8 Hz), 2.63 (4H, m), 2.07 (3H, s). 13C NMR (DMSO-d6) 165.3, 160.3, 159.6, 159.3, 154.9, 153.9, 149.0, 141.1, 132.5, 129.7, 120.7, 119.2, 117.8, 117.6, 116.7, 108.66, 26.4, 25.3, 22.0. MS (ES+) 393 (MH+, 100), 785 (2 MH+, 60).

reactant | (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine | 2 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NN | C15H13ClN6
reactant | levulinic acid | 0.744 g | C(CCC(=O)C)(=O)O | C5H8O3
solvent | n-Butanol | 40 mL | C(CCC)O | C4H10O
product | 2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-6-methyl-4,5-dihydro-2H-pyridazin-3-one | 0.7263 g, 51% | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1N=C(CCC1=O)C | C20H17ClN6O
